US08030322B2
Preparation 44: (E)-ethyl 2-cyano-2-(6-fluoro-2,3-dihydro-1H-inden-1-ylidene)acetate (Prep44)
The mixture of compound 6-Fluoro-indan-1-one (5 g, 0.03 mol), and ethyl cyanoacetate (5 g, 0.05 mol), ammonium acetate (25 g, 0.33 mol) and glacial acetic acid (50 ml) in toluene (205 ml) was refluxed with a Dean Stark water trap for 4 h. The mixture was concentrated in vacuo, the residue washed by water and EtOH three times to afford the the compound (8.00 g, y=97.96%).

reactant | 6-Fluoro-indan-1-one | 0.03 mol, 5 g | FC1=CC=C2CCC(C2=C1)=O | C9H7FO
reactant | ethyl cyanoacetate | 0.05 mol, 5 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | ammonium acetate | 0.33 mol, 25 g | C(C)(=O)[O-].[NH4+]
reactant | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | toluene | 205 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | (E)-ethyl 2-cyano-2-(6-fluoro-2,3-dihydro-1H-inden-1-ylidene)acetate | C(#N)\C(\C(=O)OCC)=C/1\CCC2=CC=C(C=C12)F | C14H12FNO2
